US05998463
EXAMPLE 6 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-ethylphenylcarbamoyl)-phenyl]-amide.
Prepared as in Example 1 from 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester and 3-amino-N-(4-ethyl-phenyl)-benzamide. Purified by chromatography (chloroform/methanol, 10:1). 1H NMR (DMSO-d6) δ 1.15 (m, 6 H), 2.5 (q, 2 H), 3.85 (q, 2 H), 6.85-8.3 (m, 11 H), 10.0 (s, 1 H), 11.1 (s, 1 H).

reactant | 1-ethyl-5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1C(N(C2=CC=C(C=C12)C1(OCCO1)C)CC)=O | C16H19NO5
reactant | 3-amino-N-(4-ethyl-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC=C(C=C2)CC)C=CC1 | C15H16N2O
product | 5-Acetyl-1-ethyl-2-oxo-2,3-dihydro-1H-indole-3-carboxylic acid [3-(4-ethylphenylcarbamoyl)-phenyl]-amide | C(C)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)NC(=O)C1C(N(C2=CC=C(C=C12)C(C)=O)CC)=O | C28H27N3O4
